US09056874B2
2-(1-(5-Ethyl-7-methyl-1H-indol-4-yl)vinyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of 2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1H-benzo[d]imidazole-5-carbonitrile (79 mg, 0.164 mmol) and KOH (46.1 mg, 0.822 mmol) in EtOH (3 mL) was stirred at 100° C. for 0.5 h under the microwave irradiation. The reaction mixture was diluted with CH2Cl2/2,2,2-trifluoroethanol (c.a. 9/1). The mixture was washed with H2O, dried over Na2SO4, and filtered and concentrated. The resulting residue was purified by RP-HPLC (HC-A), then (HC-B) to give the title compound. 1H NMR (400 MHz, DICHLOROMETHANE-d2 with about 5 μL TFA) δ ppm 8.46 (br. s., 1H), 8.04 (s, 1H), 7.86 (d, J=8.59 Hz, 1H), 7.73 (dd, J=1.14, 8.59 Hz, 1H), 7.37 (s, 1H), 7.27 (t, J=2.80 Hz, 1H), 7.07 (s, 1H), 6.25 (s, 2H), 2.47-2.65 (m, 5H), 1.14 (t, J=7.45 Hz, 3H). HRMS calcd. for C21H18N4 (M+H)+ 327.1610. found 327.1612.

reactant | 2-(1-(5-ethyl-7-methyl-1-tosyl-1H-indol-4-yl)vinyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.164 mmol, 79 mg | C(C)C=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(=C)C1=NC2=C(N1)C=CC(=C2)C#N | C28H24N4O2S
reactant | KOH | 0.822 mmol, 46.1 mg | [OH-].[K+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | CH2Cl2 2,2,2-trifluoroethanol | C(Cl)Cl.FC(CO)(F)F
product | 2-(1-(5-Ethyl-7-methyl-1H-indol-4-yl)vinyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C=CNC2=C(C1)C)C(=C)C1=NC2=C(N1)C=CC(=C2)C#N | C21H18N4
